US09359358B2
Step 2: 6-[(4-oxocyclohexyl)oxy]-2-(trifluoromethyl)pyrimidine-4-carboxylic acid
6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidine-4-carboxylic acid (0.50 g, 1.4 mmol) was dissolved in acetone (12.8 mL) To this solution was added a solution of 12.0 M hydrogen chloride in water (1.5 mL, 18 mmol) and stirred at RT for 16 hours at which time LCMS showed the reaction was compete. The reaction mixture was extracted with EtOAc and was evaporated to give the product. The crude product was used in the next step. MS (ES): 305(M+1).

reactant | 6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidine-4-carboxylic acid | 1.4 mmol, 0.50 g | O1CCOC12CCC(CC2)OC2=CC(=NC(=N2)C(F)(F)F)C(=O)O | C14H15F3N2O5
reactant | hydrogen chloride | 12.0 M | Cl | ClH
reactant | water | 18 mmol, 1.5 mL | O | H2O
solvent | acetone | 12.8 mL | CC(=O)C | C3H6O
product | 6-[(4-oxocyclohexyl)oxy]-2-(trifluoromethyl)pyrimidine-4-carboxylic acid | O=C1CCC(CC1)OC1=CC(=NC(=N1)C(F)(F)F)C(=O)O | C12H11F3N2O4
